US06159904
0.92 Gram (2.8 mmol) of 6-carboxy-8-chloro-4,4-ethylenedioxy-5-methylthiochroman-1,1-dioxide was dissolved in 10 ml of methylene chloride, and 0.34 g (1.1 eq., 3.0 mmol) of 1-ethyl-5-hydroxypyrazole and 0.63 g (1.1 eq., 3.1 mmol) of N,N'-dicyclohexylcarbodiimide were added. The mixture was stirred at room temperature for 5 hours. Then, an insoluble substance was removed by filtration, and the filtrate was washed with a saturated sodium chloride aqueous solution and dried over anhydrous sodium sulfate. The solvent was distilled off to give 0.96 g (yield 81%) of 8-chloro-6-(1-ethylpyrazol-5-yl)oxycarbonyl-4,4-ethylenedioxy-5-methylthiochroman-1,1-dioxide.

reactant | 6-carboxy-8-chloro-4,4-ethylenedioxy-5-methylthiochroman-1,1-dioxide | 2.8 mmol | C(=O)(O)C=1C(=C2C3(CCS(C2=C(C1)Cl)(=O)=O)OCCO3)C | C13H13ClO6S
reactant | 1-ethyl-5-hydroxypyrazole | 3.0 mmol, 0.34 g, 1.1 eq. | C(C)N1N=CC=C1O | C5H8N2O
reactant | N,N'-dicyclohexylcarbodiimide | 3.1 mmol, 0.63 g, 1.1 eq. | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 8-chloro-6-(1-ethylpyrazol-5-yl)oxycarbonyl-4,4-ethylenedioxy-5-methylthiochroman-1,1-dioxide | 0.96 g, yield 81% | ClC=1C=C(C(=C2C3(CCS(C12)(=O)=O)OCCO3)C)C(=O)OC3=CC=NN3CC | C18H19ClN2O6S
